US05053408
3-Ethoxycarbonylmethylindole
A mixture of 5.0 g (28.5 mmols) of indole-3acetic acid, 250 ml of ethanol and 5 ml of conc. sulfuric acid was heated under reflux for 2 hours. After cooling to 0° C., the mixture was neutralized with a 2 normal aqueous sodium hydroxide solution. The solvent was evaporated under reduced pressure, and then water was added to the residue followed by extraction of the solution with chloroform. The chloroform layer was washed with an aqueous saturated sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was dried to afford 5.2 g (yield: 90%) of the title compound.

reactant | indole-3acetic acid | 28.5 mmols, 5.0 g | N1C=C(C2=CC=CC=C12)CC(=O)O | C10H9NO2
reactant | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethanol | 250 ml | C(C)O | C2H6O
product | 3-Ethoxycarbonylmethylindole | 5.2 g, yield: 90% | C(C)OC(=O)CC1=CNC2=CC=CC=C12 | C12H13NO2
